* ADA4000 SPICE Macro-model Typical Values
* Description: Amplifier
* Generic Desc: 8/30V, JFET, OP, Low Cost, Low Ib, 2X
* Developed by: ADSJ - HH, ADSJ - SS
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (03/2011)
* 1.1 (06/2007)
* Copyright 2007, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADA4000         1   2   99  50  30
*
* INPUT STAGE
*
R3   5  50  6.437E+03
R4   6  50  6.437E+03
CIN  1   2    5.5E-12
I1  99   4    9.321E-04
IOS  1   2    1.00E-12
EOS  7  1   POLY(4) (22,98) (73,98) (81,98) (83,98) 1.40E-03  1 1 1 1;ALL
J1   5   2    4   JX
J2   6   7    4   JX
GB1  2  50    POLY(3) (4,2) (5,2) (50,2) 0 1E-12 1E-12 1E-12
GB2  7  50    POLY(3) (4,7) (6,7) (50,7) 0 1E-12 1E-12 1E-12
*
EREF 98 0 POLY(2) (99,0) (50,0) 0 0.5 0.5 
*
* SECOND STAGE & POLE AT 1.3 kHZ
*
G1   98  9  5  6  1.30E-01
R5    9 98  1.2E+05
C3   9  98    37750E-12
V2   8  98   13.2
V3   98 10   12.7
D1   9   8    DX
D2   10  9    DX
*
* POLE AT 15 MHZ
*
R13  18 98     1E3
C9   18 98   1.68E-11
G5   98 18     9  98  1E-3
*G5   98 18     9  24  1E-3
*
* COMMON-MODE GAIN NETWORK
*
E3   72 98     POLY(2) (1,98)  (2,98)  0  8.994E-02 8.994E-02
R10  72 73     1.121E+02
R20  73 98     8.842E-03
C10  73 72     1.0E-06
*
* PSRR NETWORK
*
EPSY 98 21 POLY(1) (99,50) -2.4375E-00 8.1250E-02
RPS1 21 22 9.947E+05
RPS2 22 98 1.224E+02
CPS1 21 22  1.0E-09
*
* VOLTAGE NOISE GENERATOR
*
VN1 80 98 0
RN1 80 98 18.35E-3
HN  81 98 VN1 15.0E0
RN2 81 98 1
*
* Flicker noise
*
DFN 82 98 DNOISE 1000
IFN 98 82 DC 1E-03
DFN2 182 98 DNOISE 1
IFN2 98 182 DC 1E-06
GFN 83 98 POLY(1) (182,82) 1.00E-13 1.00E-01
RFN 83 98 1

* OUTPUT STAGE
*
GSY  99 50     POLY(1) 99 50 5.93E-05 7.852E-6
R16  29 99     8.00E+01
R17  29 50     8.00E+01
G6   27 50     18 29  1.25E-02
G7   28 50     29 18  1.25E-02
G8   29 99     99 18  1.25E-02
G9   50 29     18 50  1.25E-02
V4   25 29     0.45 
V5   29 26     0.55
D3   18 25     DX
D4   26 18     DX
D5   99 27     DX
D6   99 28     DX
D7   50 27     DY
D8   50 28     DY
F1   29  0     V4  1
F2   0  29     V5  1
L1   29 30a     1E-8
Ro   30a 30    1m
*
* MODELS USED
*
.MODEL JX PJF(BETA=1.4E-3  VTO=-1.000  IS=20E-12 RD=0
+ RS=0 CGD=1E-12 CGS=1E-12)
.MODEL DX   D(IS=1E-15 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-12 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=100 KF=2.651E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=12090 KF=0 AF=1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=5.88E-16, AF=1)
*
.ENDS ADA4000
*








