* ADA4051 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 1.8/5V, CMOS, OP, Zero Drift, RRIO, 2X
* Developed by: HH/ADSJ, GEC/ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 2.0 (07/2010) - Modified for 1.8 to 5V Vsy
* 1.0 (11/2009)
* Copyright 2009, 2010, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: Typical Values at Vsy=5V, Ta=25°C
*
* END Notes
*
* Node Assignments
*                       noninverting input
*                       |   inverting input
*                       |   |    positive supply
*                       |   |    |   negative supply
*                       |   |    |   |   output
*                       |   |    |   |   |
*                       |   |    |   |   |
.SUBCKT ADA4051         1   2   99  50  45
*
* INPUT STAGE
*
M1   4  7  8  8 PIX L=2E-6 W=2.321E-04;  ** D G S
M2   6  2  8  8 PIX L=2E-6 W=2.321E-04
M3  14  7 18 18 NIX L=2E-6 W=8.911E-05
M4  16  2 18 18 NIX L=2E-6 W=8.911E-05
Cincmp 1 50 5E-12
Cincmn 2 50 5E-12
Cindm 1 2 2E-12
RD1  4 50 2E+05
RD2  6 50 2E+05
RD3 99 14 2E+05
RD4 99 16 2E+05
C1   4  6 3.361E-12
C2  14 16 3.361E-12
I1  99  8 2E-06
I2  18 50 2E-06
V1  99  9 0.166E+00
D1   8  9 DX
V2  19 50 0.157E+00
D2  19 18 DX
EOS  7  1 POLY(4) (73,98) (22,98) (81,98) (83,98) 2.00E-06 1 1 1 1
IOS  1  2 2.00E-11
*
*CMRR
*
E1  72 98 POLY(2) (1,98) (2,98) 0 4.708E-04 4.708E-04
R10 72 73 1.061E+01
R20 73 98 1.592E-01
C10 72 73 1.00E-06
*
* PSRR
*
EPSY 21 98 POLY(1) (99, 50) -8.000E-03 1.600E-03
RPS1 21 22 3.183E+01
RPS2 22 98 1.989E-01
CPS1 21 22 1.00E-06
*
* VOLTAGE NOISE REFERENCE OF 95nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 16.45E-3
HN  81 98 VN1 9.3564E+01
RN2 81 98 1
*
* FLICKER NOISE CORNER 
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 0.5 0.5
EVP  97 98 (99,50) 0.36
EVN  51 98 (50,99) 0.36
GSY  99 50 POLY(1) (99,50) 7.6E-06 8.00E-08
*
* GAIN STAGE
*
G1 98 30 POLY(2) (4,6) (14,16) 0 2.608E-04 2.608E-04
R1 30 98 1.00E+06
RZ 45 31 1.855E+3
CF 30 31 5.57E-09
EV3 32 98 Poly(1) (99,50) 0.18125 0.03375;    
EV4 98 33 Poly(1) (99,50) -0.13125 0.06625;
D3 30 32 DX
D4 33 30 DX
*
* OUTPUT STAGE
*
M5  45 46 99 99 POX L=3E-6 W=2.041E-03
M6  45 47 50 50 NOX L=3E-6 W=8.333E-03
EG1 99 46 POLY(1) (98,30) 7.091E-01 1
EG2 47 50 POLY(1) (30,98) 6.090E-01 1
*
* MODELS
*
.MODEL POX PMOS (LEVEL=2,KP=4.00E-05,VTO=-0.7,LAMBDA=0.047,RD=0)
.MODEL NOX NMOS (LEVEL=2,KP=1.00E-05,VTO=+0.6,LAMBDA=0.022,RD=0)
.MODEL PIX PMOS (LEVEL=2,KP=1.50E-05,VTO=-0.5,LAMBDA=0.03)
.MODEL NIX NMOS (LEVEL=2,KP=4.00E-05,VTO=0.5,LAMBDA=0.02)
.MODEL DX D(IS=1E-14,RS=0.1)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=0E+00)
*
.ENDS ADA4051
*
*$




