* ADA4075-2 SPICE DMod model Typical values
* Description: Amplifier
* Generic Desc: 9/30V, BIP, OP, Low Noise, Low THD, 2X
* Developed by: DB, VW ADSJ
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (10/2008)
* Copyright 2008, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: VSY = +/-15V, T=25°C
*
* END Notes
*
* Node assignments

* X1 7 4 6 3 2 ADA4075
*   | | | | |
*   | | | | Inverting Input
*   | | | Non-Inverting Input
*   | | Output
*   | Negative Supply
*   Positive Supply

.SUBCKT ADA4075 3 2 7 4 6 

* Input Impedances

I1 0 3 -2.700E-008
I2 0 2 -2.700E-008
G3 3 2 3 2 2.041E-005
R1 3 0 6.200E+008
R2 2 0 6.200E+008
C1 3 0 2.500E-012
C2 2 0 2.500E-012
C3 3 2 2.400E-012

* Input Clamping

V5 3 12 7.000E-001
V6 13 3 7.000E-001
D1 12 2 DH
D2 2 13 DH

*Vos 

EOS  100 3 POLY(2) (73,98) (102,98) 0 1 1 

*CMRR

Eint 98 0 POLY(2) (7,0) (4,0) 0 0.5 0.5
E1  72 98 POLY(2) (3,98) (2,98) 0 1.58E-04 1.58E-04
R10 72 73 1.59E+00
R20 73 98 1.59E-02
C10 72 73 4E-9

*PSRR

EPSY 101 98 POLY(1) (7,4) -47.76 2.9850 
RPS1 101 102 1.06E+03
RPS2 102 98 7.96E-03
CPS1 101 102 6.00E-7


.MODEL DH D IS=2.09E-16

* Preconditioning Gain Stage and Sum Node for
* Transconductance Control and Noise Insertion

*
G4 0 41 POLY(2) 100 2 60 63 2.334E-007 3.335E-003 6.602E-004

* Limiting Section for Slew-Rate Control

D5 41 43 DL
V1 43 0 1.732E+002
D6 42 41 DL
V2 0 42 1.732E+002
G5 41 0 41 0 1.0E-5
E6 20 0 POLY(1) 41 0 0 1
+0 -1.207823E-004 0 1.147468E-008
+0 -4.639124E-013 0 6.662675E-018

.MODEL DL D IS=1E-18 EG=0.1 N=0.2

* Second-Order Frequency Shaping

R50 20 21 5
C50 21 0 9.947E-010
R52 21 23 35
C51 23 0 1.421E-010
R54 23 25 245
C52 25 0 1.933E-011
R56 25 27 1715
C53 27 0 3.946E-013
R58 27 40 12005
C54 40 0 5.637E-014

* Primary Gain Block and Dominant Pole/Zero

G6 0 44 POLY(3) 45 6 40 0 0 54 0 -1.667E-004 1E-5 5E-4
+-1.809528E+000
+0 0 0 0 0
+2.239963E-006
+0 0 0 0 0 0 0 0 0
+4.861948E+006
+0 0 0 0 0 0 0 0 0 0 0 0 0 0
+3.621108E+000
+0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+-6.594173E+012
+0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+1.228579E+006
+0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+3.060864E+018
+0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0 0
+0 0 0 0 0 0 0 0 0
+2.655914E+011
G7 44 0 44 0 4.710E-009
C4 44 48 7.692E-011
R4 48 7 1.379E+002

* Output Stage and Swing Limiting Network

E2 46 0 POLY(1) 7 0 -1.778E+000 1
D7 44 46 DL
E3 47 0 POLY(1) 4 0 6.780E-001 1
D8 47 44 DL
G10 45 6 45 6 100
E4 53 0 45 6 2.505E+005
V7 53 56 100.2
D9 56 54 DL
V8 57 53 100.2
D10 54 57 DL
G8 54 0 54 0 9.1E-6
M1 7 44 45 4 MN L=1U W=5000U
M2 4 44 45 7 MP L=1U W=5000U

.MODEL MN NMOS LEVEL=1 KP=1.890E-005 PHI=9.764E-001
+VTO=-1.079E-001 GAMMA=0 LAMBDA=0 TOX=0.9
.MODEL MP PMOS LEVEL=1 KP=8.651E-006 PHI=8.216E-001
+VTO=1.595E-001 GAMMA=0 LAMBDA=0 TOX=0.9

* Quiescent Supply Current

G9 7 4 POLY(1) 7 4 1.140E-003 7.143E-006

* Noise Modeling

D60 60 0 DN1 1000
I60 0 60 1E-3
D61 61 0 DN3
I61 0 61 1E-6
G60 3 0 61 60 7.850E-005
G61 2 0 61 60 7.850E-005
D62 62 0 DN4
I62 0 62 1E-6
G62 3 2 62 60 2.730E-005
D63 63 0 DN2
I63 0 63 1E-6

.MODEL DN1 D IS=1E-16
.MODEL DN2 D IS=1E-16 AF=1 KF=2.777E-018
.MODEL DN3 D IS=1E-16 AF=1 KF=5.555E-018
.MODEL DN4 D IS=1E-16 AF=1 KF=1.975E-017

.ENDS ADA4075




