* ADA4092 SPICE Macro-model       
* Description: Amplifier
* Generic Desc: 2.7/30V, BIP, OP, Low Pwr, RRIO, 4X
* Developed by: HH / AD-SJ
* Revision History: 08/10/2012 - Updated to new header style
* 0.0 (12/2010)
* Copyright 2010, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement.  Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node assignments
*                non-inverting input
*                |  inverting input
*                |  |  positive supply
*                |  |  |  negative supply
*                |  |  |  |  output
*                |  |  |  |  |
.SUBCKT ADA4092  1  2  99 50 45
*
* INPUT STAGE
*
Q1   6    4    7A    QP
Q2   5    3    7B    QP
RE1  7A   7   5.656E+02
RE2  7B   7   5.656E+02
I1   99   7    8.00E-06
D1   3    99   DX
D2   4    99   DX
D3   50   3    DX
D4   50   4    DX
D5   3    4    DX
D6   4    3    DX
R1   3    8    5E+03
R2   4    2    5E+03
R3   5    50   7.500E4;
R4   6    50   7.500E4;  
Cph  5    5A   0.23E-12
Rph  5A   6    300
EOS  8    1    POLY(4) (73,98) (22,98) (81,98) (83,98) -1.4E-03 1 1 1 1
IOS  3    4     -2.0E-09
CDiff  1    2    2.5E-12
Cin1   1   50    2E-12
Cin2   2   50    2E-12
*
* INPUT PROTECTION NETWORK
*
X_in1 1 50 Diac1
X_in2 2 50 Diac1
X_in3 1 99 Diac1
X_in4 2 99 Diac1
*
*
RS1  99   39   400.0E3
RS2  39   50   400.0E3
EREF 98   0    (39,0) 1
*
* 1ST GAIN STAGE
*
R7    9  98    3.266E+08
G1    9  98  (6,5) 4.303E-06
D7    9  13   DX
D8   14   9   DX
V1   13  98   0.37; sink
V2   14  98   +0.017; source
*
* 2ND GAIN STAGE AND DOMINANT POLE 
*
R8   12   98   1.0E+06
G2   12   98  (98,9) 1.0E-06
*
* Provision for second pole
*
G3   18   98   (98,12) 1E-05
R11  18   98   1E5
*
* CMRR
*
ECM  21   98   POLY(2) (1,98) (2,98) 0 7.813E-02 7.813E-02
R10  21   22   2.487E+04
R20  22   98   1.592E+01
C10  21   22   1E-9
*
* PSRR
*
EPSY 72 98 POLY(1) (99,50) +0.1E-6 1.485E+01
RPS1 72 73 5.305E+02
RPS2 73 98 3.183E-03
CPS1 72 73 1.00E-06
*
* VOLTAGE NOISE REFERENCE OF 30nV/rt(Hz)
*
VN1 80 98 0
RN1 80 98 25.5E-3
HN  81 98 VN1 3.0E+01
RN2 81 98 1
*
* FLICKER NOISE CORNER 
*
DFN 82 98 DNOISE
VFN 82 98 DC 0.6551
HFN 83 98 POLY(1) VFN 1.00E-03 1.00E+00
RFN 83 98 1
*
* OUTPUT STAGE
*
Q3   451 41 99 POUT
RB1  40 41 1.5E+03
EB1  99 40 POLY(1) (98,18) 6.190E-01  1E-0;  
Q4   451 43 50 NOUT
RB2  42 43 2.0E+03
EB2  42 50 POLY(1) (18,98) 6.155E-01  1E-0; 
Lout 45 451  6.2E-12
RZ  451 453  100
CZ  453  9  4.6E-12
*
GSY  99 50 POLY(1) (99 50) 79.9E-6 -1.04E-06
*
* MODELS
*
.MODEL QP PNP(BF=80, IS=1.00E-16, VA=130)
.MODEL POUT PNP (BF=80,IS=2.8E-15,VA=130, BR=3,VAR=15, RC=38);
.MODEL NOUT NPN (BF=120,IS=3.2E-15,VA=250, BR=7, VAR=20, RC=8);
.MODEL DW D(IS=1E-18)
.MODEL DX D()
.MODEL DY D(IS=1E-9)
.MODEL DZ D(IS=1E-6)
.MODEL DNOISE D(IS=1E-14,RS=0,KF=1.15E-12)
.ENDS  ADA4092  
*
.SUBCKT Diac1 1 2
Done 1 3 DZ42hh 
Dtwo 2 3 DZ42hh
.ENDS Diac1 
*
.MODEL DZ42hh D
+ IS=3.3179E-6 N=2.0 RS=1.0000E-3 CJO=10.00E-12 M=.31349 VJ=.3905
+ ISR=2.9061E-9 BV=42.0 IBV=5.0E-03 TT=300.0E-9
*




